US05965756
13e) Preparation of N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silanamine
Chlorodimethyl(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silane (10.8277 g, 0.03322 moles) was stirred in hexane (150 mL) as NEt3 (3.5123 g, 0.03471 moles) and t-butylamine (2.6074 g, 0.03565 moles) were added. This mixture was allowed to stir for 24 hours. After the reaction period the mixture was filtered and the volatiles removed resulting in the isolation of the desired product as a thick red-yellow oil (10.6551 g, 88.7 percent).

reactant | Chlorodimethyl(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silane | 0.03322 moles, 10.8277 g | Cl[Si](C1C=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)(C)C | C20H21ClSi
reactant | NEt3 | 0.03471 moles, 3.5123 g | CCN(CC)CC | C6H15N
reactant | t-butylamine | 0.03565 moles, 2.6074 g | C(C)(C)(C)N | C4H11N
solvent | hexane | 150 mL | CCCCCC | C6H14
product | N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silanamine | 10.6551 g, 88.7 percent | CC(C)(C)N[Si](C1C=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)(C)C | C24H31NSi
